US05118339
10.2 g of 2-amino-6-acetylbenzoic acid was converted into a diazonium salt with a mixture of 14.2 ml of concentrated hydrochloric acid, 40 ml of water and 4.3 g of sodium nitrite, and the diazonium salt was gradually added dropwise at a temperature of 0° to 5° C. to a sodium disulfide aqueous solution (prepared from 14.3 g of sodium sulfide.9H2O, 1.9 g of sulfur, 4.6 g of sodium hydroxide and 30 ml of water). After adding dropwise, the reaction liquor was stirred for 2 hours at room temperature to complete the reaction. The reaction liquor was poured into a large amount of water, and after adding concentrated hydrochloric acid thereto, the product was extracted with ethyl acetate. To the ethyl acetate layer, was added sodium hydrogencarbonate aqueous solution, and the content soluble in sodium hydrogencarbonate was extracted. To the resultant aqueous solution, was added 14.8 g of sodium pyrosulfate, and the mixture was refluxed for 30 minutes to complete the reaction. To the reaction liquor, was added concentrated hydrochloric acid, and the product was extracted with ethyl acetate. The extracted liquor was dried, and the solvent was distilled off under reduced pressure to obtain 10.1 g of 2-mercapto-6-acetylbenzoic acid at a yield of 90%.

reactant | 2-amino-6-acetylbenzoic acid | 10.2 g | NC1=C(C(=O)O)C(=CC=C1)C(C)=O | C9H9NO3
reactant | hydrochloric acid | 14.2 ml | Cl | ClH
reactant | sodium nitrite | 4.3 g | N(=O)[O-].[Na+]
reactant | sodium disulfide | 30 ml, 14.3 g | [S-][S-].[Na+].[Na+]
solvent | water | O | H2O
solvent | water | 40 ml | O | H2O
product | 2-mercapto-6-acetylbenzoic acid | 10.1 g, yield of 90% | SC1=C(C(=O)O)C(=CC=C1)C(C)=O | C9H8O3S
